US05541219
A stirred, ice-cold, aqueous solution of sodium hydroxide (250 mL; 15% w/v) is treated, dropwise, with guaiacol (22 mL), followed by benzoyl chloride (25.5 mL), and the mixture is stirred for a further period of 40 minutes. The resulting crystalline white solid is filtered off, washed with water, and dried, to give 2-methoxyphenyl benzoate (29.2 g), m.p. 59°-60° C. [Elemental analysis: C,73.3; H,5.2%; calculated: C,73.7; H,5.3%].

reactant | guaiacol | 22 mL | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | benzoyl chloride | 25.5 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | 250 mL | [OH-].[Na+]
product | 2-methoxyphenyl benzoate | 29.2 g | C(C1=CC=CC=C1)(=O)OC1=C(C=CC=C1)OC | C14H12O3
